US07723369B2
5-{4-[2-(4-Bromo-benzyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide (prepared according to general procedures A, B and C subsequently) (56 mg, 0.1 mmol) was treated as described in general procedure G using 4-tert-butylphenylboronic acid (36 mg, 0.2 mmol) to give 5-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide.

reactant | 5-{4-[2-(4-Bromo-benzyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | BrC1=CC=C(CC=2N(C=C(N2)C2=C(C=C(C=C2)F)F)C2=CC=C(C=C2)N2CC(NS2(=O)=O)=O)C=C1 | C24H17BrF2N4O3S
reactant | 4-tert-butylphenylboronic acid | 0.2 mmol, 36 mg | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 5-{4-[2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-difluoro-phenyl)-imidazol-1-yl]-phenyl}-1,2,5-thiadiazolidine-3-one-1,1-dioxide | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1N(C=C(N1)C1=C(C=C(C=C1)F)F)C1=CC=C(C=C1)N1CC(NS1(=O)=O)=O | C34H30F2N4O3S
